US04520196
B. 4-Chloro-1-methyl-o-phenylenediamine
32.5 g (0.175M) of 4-Chloro-2-nitro-N-methylaniline of A above are added gradually to 24 g Raney-Nickel (wet) and 48 g hydrazine in methanol. A large amount of heat is generated. After the addition is complete, the solution is heated to reflux for 3 hours and filtered to remove the metal catalyst. The solvent is removed and the residue dissolved in methylene chloride. The methylene chloride solution is extracted with water and the mixture is filtered to remove the emulsion. The layers are separated and the methylene chloride layer is dried over anhydrous magnesium sulfate. After removal of the solvent, the residue is recrystallized from hexane. The substituted phenylenediamine weighs 22.6 g (84% yield) and has a melting point of 51°-2° C.

reactant | 4-Chloro-2-nitro-N-methylaniline | 0.175M, 32.5 g | ClC1=CC(=C(NC)C=C1)[N+](=O)[O-] | C7H7ClN2O2
reactant | hydrazine | 48 g | NN | H4N2
reactant | methanol | CO | CH4O
catalyst | Raney-Nickel | 24 g | [Ni] | Ni
product | 4-Chloro-1-methyl-o-phenylenediamine | 84% yield | ClC1=CC(C(C=C1)(N)C)N | C7H11ClN2
